US07157487B2
In ethanol (50 ml), ethyl 4-(N′-(2-methylphenyl)thioureido)-3-(4-methoxybenzylthio)phenylacetate (1.63 g, 3.40 mmol) and mercuric oxide (yellow) (1.10 g, 16.4 mmol) were stirred for one hour at 70° C. Water (50 ml) was added and the mixture was extracted with ethyl acetate. The extract was washed with water and a saturated aqueous solution of sodium bicarbonate, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from hexane-ethyl acetate (3:1) eluate fractions, ethyl 2-(2-methylphenylamino)-6-benzothiazolylacetate (922 mg, 83%) was obtained as a pale yellow oil.

reactant | ethyl 4-(N′-(2-methylphenyl)thioureido)-3-(4-methoxybenzylthio)phenylacetate | 3.40 mmol, 1.63 g | CC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)OCC)SCC1=CC=C(C=C1)OC)=S | C26H28N2O3S2
reactant | Water | 50 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 2-(2-methylphenylamino)-6-benzothiazolylacetate | 922 mg, 83% | CC1=C(C=CC=C1)NC=1SC2=C(N1)C=CC(=C2)CC(=O)OCC | C18H18N2O2S
